### PR TITLE
[Merged by Bors] - feat: interactions between `IsSuccLimit` and `WithTop`

### PR DESCRIPTION
**Pull request by vihdzp**
---

- [x] depends on: #38240

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/SuccPred/Limit.lean [hunk 1]
```diff
@@ -174,6 +174,51 @@ theorem IsSuccLimit.subtypeVal {s : Set α} (hs : IsLowerSet s) {a : s}
...
+theorem _root_.WithTop.isSuccPrelimit_iff [NoMaxOrder α] {x : WithTop α} :
+    IsSuccPrelimit x ↔ x = ⊤ ∨ ∃ y : α, x = y ∧ IsSuccPrelimit y := by
+  cases x with
+  | coe x => simp [IsSuccPrelimit, WithTop.forall]
+  | top => simp [IsSuccPrelimit]
+
+@[to_dual]
+theorem IsSuccPrelimit.withTopCoe [NoMaxOrder α] {x : α} (h : IsSuccPrelimit x) :
+    IsSuccPrelimit (x : WithTop α) := by
+  simpa [WithTop.isSuccPrelimit_iff]
```
Comment (SnirBroshi) [inline Mathlib/Order/SuccPred/Limit.lean]: This doesn't need `NoMaxOrder α` if you use the same proof from the `coe x` branch above:
```suggestion
theorem IsSuccPrelimit.withTopCoe {x : α} (h : IsSuccPrelimit x) :
    IsSuccPrelimit (x : WithTop α) := by
  simpa [IsSuccPrelimit, WithTop.forall]
```

File: Mathlib/Order/SuccPred/Limit.lean [hunk 2]
```diff
@@ -174,6 +174,51 @@ theorem IsSuccLimit.subtypeVal {s : Set α} (hs : IsLowerSet s) {a : s}
...
+@[to_dual]
+theorem _root_.WithTop.isSuccLimit_iff [Nonempty α] [NoMaxOrder α] {x : WithTop α} :
+    IsSuccLimit x ↔ x = ⊤ ∨ ∃ y : α, x = y ∧ IsSuccLimit y := by
+  cases x with
+  | coe x => simp [IsSuccLimit, WithTop.isSuccPrelimit_iff, WithTop.exists]
+  | top => simp [IsSuccLimit, WithTop.exists]
+
+@[to_dual]
+theorem IsSuccLimit.withTopCoe [NoMaxOrder α] {x : α} (h : IsSuccLimit x) :
+    IsSuccLimit (x : WithTop α) := by
```
Comment (SnirBroshi) [inline Mathlib/Order/SuccPred/Limit.lean]: This shouldn't require `NoMaxOrder` (so would need a different proof)

File: Mathlib/Order/SuccPred/Limit.lean [hunk 3]
```diff
@@ -174,6 +174,51 @@ theorem IsSuccLimit.subtypeVal {s : Set α} (hs : IsLowerSet s) {a : s}
...
+  have : Nonempty α := ⟨x⟩
+  simpa [WithTop.isSuccLimit_iff]
```
Comment (SnirBroshi) [inline Mathlib/Order/SuccPred/Limit.lean]: This doesn't need `NoMaxOrder α`:
```suggestion
theorem IsSuccLimit.withTopCoe {x : α} (h : IsSuccLimit x) :
    IsSuccLimit (x : WithTop α) := by
  simpa [IsSuccLimit, WithTop.exists, h.isSuccPrelimit.withTopCoe] using h.not_isMin
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
